US07741323B2
(Step 3) Preparation of 1-oxo-3-phenyl-6-(3-phenylpropoxy)-1H-indene-2-carbonitrile [compound of formula (II)]
2-Bromo-3-phenyl-6-(3-phenylpropoxy)indene-1-one (1.0 g, 2.3 mmol) was dissolved in N,N-dimethylformamide (10 ml). Copper (I) cyanide (617 mg, 6.9 mmol) was added thereto and the mixture was stirred for 3 hours at 150° C. The mixture was cooled, and saturated ammonium chloride was added thereto. The organic layer was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography (ethyl acetate:hexane=1:3) to obtain the title compound (700 mg, yield 80%) as a red solid.

reactant | 2-Bromo-3-phenyl-6-(3-phenylpropoxy)indene-1-one | 2.3 mmol, 1.0 g | BrC=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)OCCCC1=CC=CC=C1)=O | C24H19BrO2
reactant | Copper (I) cyanide | 6.9 mmol, 617 mg | [Cu]C#N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-oxo-3-phenyl-6-(3-phenylpropoxy)-1H-indene-2-carbonitrile | 700 mg, yield 80% | O=C1C(=C(C2=CC=C(C=C12)OCCCC1=CC=CC=C1)C1=CC=CC=C1)C#N | C25H19NO2
